US07018988B2
(2S,4EZ)-4-[(allyloxy)imino]-1-[4-(dimethylamino)butanoyl]-N-(9-ethyl-9H-carbazol-3-yl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-[(allyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, 4-(dimethylamino)-butanoyl chloride, and 9-ethyl-9H-carbazol-3-amine the title compound was obtained in 40% purity by LC/MS. MS(ESI+): m/z=490.4.

reactant | (2S,4EZ)-4-[(allyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C=C)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C13H20N2O5
reactant | 4-(dimethylamino)-butanoyl chloride | CN(CCCC(=O)Cl)C | C6H12ClNO
reactant | 9-ethyl-9H-carbazol-3-amine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
product | (2S,4EZ)-4-[(allyloxy)imino]-1-[4-(dimethylamino)butanoyl]-N-(9-ethyl-9H-carbazol-3-yl)-2-pyrrolidinecarboxamide | C(C=C)ON=C1C[C@H](N(C1)C(CCCN(C)C)=O)C(=O)NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C28H35N5O3
